US07572794B2
4-oxo-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (140 mg, 0.28 mmol) in dry THF was treated successively with trifluoromethyltrimethylsilane (0.06 mL, 0.42 mmol) and tetra-n-butylammonium fluoride (1M solution in THF, 0.28 mL, 0.28 mmol). The reaction was stirred at rt overnight before it was partitioned between EtOAc and water. The organic phase was washed with brine, dried, filtered and concentrated in vacuo. The residue was purified by chromatography on Isolute® Flash silica gel (Separtis) (Gradient elution: 100% CH2Cl2 to CH2Cl2/EtOH 10:1) to give 4-hydroxy-4-trifluoromethyl-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (15 mg, 9%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.14 (1H, s), 9.21 (1H, s), 8.25 (1H, s), 8.15 (1H, d), 8.10 (1H, s), 7.95 (1H, t), 7.80 (1H, s), 7.72 (1H, d), 7.63 (1H, d), 7.23-7.32 (2H, m), 6.94 (1H, d), 6.66 (1H, t), 6.53 (1H, d), 6.02 (1H, s), 4.44 (2H, d), 4.07-4.17 (5H, m), 2.95-3.05 (2H, m), 1.55-1.63 (4H, m); m/z (ES+) 568 [M+H]+.

reactant | 4-oxo-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 0.28 mmol, 140 mg | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC(CC1)=O | C27H27N7O3
reactant | trifluoromethyltrimethylsilane | 0.42 mmol, 0.06 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetra-n-butylammonium fluoride | 0.28 mmol, 1M, 0.28 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-4-trifluoromethyl-piperidine-1-carboxylic acid (4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 15 mg, 9% | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC(CC1)(C(F)(F)F)O | C28H28F3N7O3
